US05912247
To a solution of 2-[4-(benzyloxycarbonyl)piperazin-1-yl]-4-[(2RS,3RS)-(2,3-dihydroxybutan-1-yl)oxy]quinazoline (950 mg) in methanol (21 ml) is added 10% palladium/carbon (109 mg), and the mixture is stirred under hydrogen atmosphere and under atmospheric pressure at room temperature for 8 hours. The reaction mixture is filtered, and the filtrate is evaporated to dryness under reduced pressure, and the residue is crystallized from acetone-diethyl ether. The crystals thus obtained are recrystallized from ethanol - diethyl ether to give 4-[(2RS,3RS)-(2,3-dihydroxybutan-1-yl)oxy]-2-(1-piperazinyl)quinazoline (235 mg) as crystals.

reactant | 2-[4-(benzyloxycarbonyl)piperazin-1-yl]-4-[(2RS,3RS)-(2,3-dihydroxybutan-1-yl)oxy]quinazoline | 950 mg | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NC2=CC=CC=C2C(=N1)OCC(C(C)O)O | C24H28N4O5
solvent | methanol | 21 ml | CO | CH4O
catalyst | palladium/carbon | 109 mg | [Pd] | Pd
product | 4-[(2RS,3RS)-(2,3-dihydroxybutan-1-yl)oxy]-2-(1-piperazinyl)quinazoline | 235 mg | OC(COC1=NC(=NC2=CC=CC=C12)N1CCNCC1)C(C)O | C16H22N4O3
